US04647566
A solution of ethyl 6-benzyloxy-4-chloro-6-methyl-5,6,7,8-tetrahydroquinoline-3-carboxylate (5.0 g) and p-chlorophenylhydrazine (2.0 g) in 75 mL of n-butanol is stirred at room temperature for 4 hours, then refluxed overnight. The reaction mixture is evaporated and the residue is treated with Et2O and 2N NaOH. The alkaline layer is separated, the pH is adjusted at 8 with dilute HCl, and the resulting precipitate is collected. This material is washed with EtOH/Et2O and air-dried to obtain 8-benzyloxy-2-p-chlorophenyl-8-methyl-2,3,6,7,8,9-hexahydropyrazolo[4,3-c]quinolin-3(5H)-one.

reactant | ethyl 6-benzyloxy-4-chloro-6-methyl-5,6,7,8-tetrahydroquinoline-3-carboxylate | 5.0 g | C(C1=CC=CC=C1)OC1(CC=2C(=C(C=NC2CC1)C(=O)OCC)Cl)C | C20H22ClNO3
reactant | p-chlorophenylhydrazine | 2.0 g | ClC1=CC=C(C=C1)NN | C6H7ClN2
solvent | n-butanol | 75 mL | C(CCC)O | C4H10O
product | 8-benzyloxy-2-p-chlorophenyl-8-methyl-2,3,6,7,8,9-hexahydropyrazolo[4,3-c]quinolin-3(5H)-one | C(C1=CC=CC=C1)OC1(CC=2C=3C(=CNC2CC1)C(N(N3)C3=CC=C(C=C3)Cl)=O)C | C24H22ClN3O2
